US06716999B2
Preparation of 2,6-bis (chloromethyl)-4-pyrone
4-Chloroacetoacetyl chloride (14.8 g, 33.4 mol) in dichloromethane (35% strength solution) and scandium trifluoromethanesulphonate (1.45 g, 2.5 mol) were stirred at 25° C. for 6.5 days under a nitrogen atmosphere. Water (10 g, 0.55 mol) was then added and the organic phase was concentrated. 4.2 g of product were obtained (according to GC 68% crude product). After chromatography on a silica gel column, 0.7 g of pure product corresponding to a yield of 10.8% were obtained.

reactant | 4-Chloroacetoacetyl chloride | 33.4 mol, 14.8 g | ClCC(CC(=O)Cl)=O | C4H4Cl2O2
reactant | Water | 0.55 mol, 10 g | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | scandium trifluoromethanesulphonate | 2.5 mol, 1.45 g | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | 2,6-bis (chloromethyl)-4-pyrone | 4.2 g | ClCC=1OC(=CC(C1)=O)CCl | C7H6Cl2O2
